US09382243B2
1-(cyclopropylsulfonyl)-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperazine
1-(4-bromophenyl)-4-(cyclopropylsulfonyl)piperazine (1.4 g, 4.15 mmol), bis(pinacolato)diboron (2.106 g, 8.29 mmol), and potassium acetate (1.221 g, 12.44 mmol) were dissolved in DMSO (17 ml). The mixture was sparged with N2 for 15 min, then [1,1′-Bis(Diphenylphosphino)-Ferrocene]Dichloropalladium (II) (0.607 g, 0.829 mmol) was added and the reaction heated to 80° C. overnight. Then the reaction was diluted with water and EtOAc. The aqueous phase was extracted with EtOAc (×2) and the combined extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The resulting residue was purified by column chromatography on a Biotage™ 50 g column by eluting with 20% to 80% EtOAc:Hexane to provide the desired product. 1H NMR δ (ppm) 7.76 (d, 2H), 6.97 (br s, 2H), 3.51 (br s, 4H), 3.40-3.38 (m, 4H), 2.33-2.29 (m, 1H), 1.35 (s, 12H), 1.24-1.22 (m, 2H), 1.06-1.02 (m, 2H).

reactant | 1-(4-bromophenyl)-4-(cyclopropylsulfonyl)piperazine | 4.15 mmol, 1.4 g | BrC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C1CC1 | C13H17BrN2O2S
reactant | bis(pinacolato)diboron | 8.29 mmol, 2.106 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 12.44 mmol, 1.221 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 17 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | [1,1′-Bis(Diphenylphosphino)-Ferrocene]Dichloropalladium (II) | 0.829 mmol, 0.607 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(cyclopropylsulfonyl)-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperazine | C1(CC1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H29BN2O4S
